US06664259B2
Preparation of N-(3-aminosulfonyl-4-chloro-2-hydroxyphenyl)-N′-(1-adamantyl) urea
A solution of 3-amino-6-chloro-2-hydroxybenzenesulfonamide (120 mg, 0.54 mmol) and 1-adamantyl isocyanate (115 mg, 0.64 mmol) in 1 mL of N,N-dimethyl-formamide was stirred at room temperature for 20 hours. The mixture was diluted with ethyl acetate and washed with water to give the crude. Purification upon column chromatograph on silica gel, eluting with ethyl acetate/hexane (50/50, v/v), gave the desired product (122 mg, 56%). LC-MS (m/z) 400.0 (M+).

reactant | 3-amino-6-chloro-2-hydroxybenzenesulfonamide | 0.54 mmol, 120 mg | NC=1C(=C(C(=CC1)Cl)S(=O)(=O)N)O | C6H7ClN2O3S
reactant | 1-adamantyl isocyanate | 0.64 mmol, 115 mg | C12(CC3CC(CC(C1)C3)C2)N=C=O | C11H15NO
solvent | N,N-dimethyl-formamide | 1 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-aminosulfonyl-4-chloro-2-hydroxyphenyl)-N′-(1-adamantyl) urea | 122 mg, 56% | NS(=O)(=O)C=1C(=C(C=CC1Cl)NC(=O)NC12CC3CC(CC(C1)C3)C2)O | C17H22ClN3O4S
